US07582773B2
Step 2: Synthesis of [4-(1-Benzyl-3-methyl-2-phenyl-1H-indol-4-yl)-phenoxy]-acetic acid.
The desired product was prepared using a procedure similar to step 2 of example 4. Thus, [4-(1-benzyl-3-methyl-2-phenyl-1H-indol-4-yl)-phenoxy]-acetic acid methyl ester (0.263 g, 0.570 mmol) was reacted with 1N KOH (1.1 ml) in THF/MeOH (3 ml/2 ml) to give the product (0.198 g, 0.442 mmol, 78%) as a white foam, mp 82-86° C. 1H NMR (DMSO-d6) δ 1.72 (s, 3H), 4.70 (s, 2H), 5.29 (m, 2H), 6.84 (d, J=7.2 Hz, 1H), 6.88 (d, J=7.3 Hz, 2H), 6.96 (d, J=8.6 Hz, 2H), 7.11 (t, J=7.5 Hz, 1H), 7.16 (t, J=7.0 Hz, 1H), 7.22 (t, J=7.0 Hz, 2H), 7.31-7.34 (m, 5H), 7.40 (t, J=7.0 Hz, 1H), 7.45 (t, J=6.7 Hz, 2H); IR (solid) 3030, 2910, 1730, 1605, 1520, 1480, 1430, 1210, and 1180 cm−1; [ESI(+)], m/z 448 (M+H)+; Anal. Calcd. for C30H25NO3.0.33H2O: C, 80.51; H, 5.63; N, 3.13; Found: C, 79.30; H, 5.78; N, 3.00.

reactant | [4-(1-benzyl-3-methyl-2-phenyl-1H-indol-4-yl)-phenoxy]-acetic acid methyl ester | 0.570 mmol, 0.263 g | COC(COC1=CC=C(C=C1)C1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)C1=CC=CC=C1)C)=O | C31H27NO3
reactant | KOH | 1N, 1.1 ml | [OH-].[K+]
solvent | THF MeOH | 3 ml | C1CCOC1.CO
product | [4-(1-Benzyl-3-methyl-2-phenyl-1H-indol-4-yl)-phenoxy]-acetic acid | C(C1=CC=CC=C1)N1C(=C(C2=C(C=CC=C12)C1=CC=C(OCC(=O)O)C=C1)C)C1=CC=CC=C1 | C30H25NO3
